US04594199
4-[Hydroxy-(4-phenylbutyl)phosphinyl]-4,4-dimethyl-2-butanone
To a solution of 4-phenylbutyl phosphonous acid (0.5 g, 0.0025 mole) in chloroform (15 ml) was added triethylamine (0.77 ml, 0.005 mole), trimethyl silylchloride (0.70 ml, 0.005 mole) and mesityl oxide (0.32 ml, 0.0025 mole). The reaction mixture was stirred at reflux temperature for 18 hours. CHCl3 was removed in vacuo. The residue was diluted with ether and washed with 5% aqueous NaHCO3 solution. The aqueous layer was acidified with concentrated HCl and extracted twice with ether and once with EtOAc. Organic layers were combined and extracted with brine, dried over Na2SO4 and solvent was removed to give 0.28 g of the product an an oil.

reactant | 4-phenylbutyl phosphonous acid | 0.0025 mole, 0.5 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | triethylamine | 0.005 mole, 0.77 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl silylchloride | 0.005 mole, 0.70 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | mesityl oxide | 0.0025 mole, 0.32 ml | O=C(C)C=C(C)C | C6H10O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[Hydroxy-(4-phenylbutyl)phosphinyl]-4,4-dimethyl-2-butanone | 0.28 g | OP(=O)(C(CC(C)=O)(C)C)CCCCC1=CC=CC=C1 | C16H25O3P
